Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / codeine / amitriptyline
 
Attending: ___.
 
Chief Complaint:
confusion 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is an ___ year old woman with history of HTN, HLD, 
Polymyalgia Rheumatica with recent traumatic fall and ___/IPH 
presenting with dizziness and confusion.  

___ was recently hospitalized at ___ ___ for 
traumatic fall with head strike with SAH/IPH, R maxillary sinus 
fracture, right zygomatic arch fracture, right rib fractures 
(___), displaced right clavicle fracture, sternal fracture, left 
distal radius fracture and discharged to ___ for 
rehabilitation. She was to hold aspirin 81mg PO daily until ___ 
though according to ___ paper work it appears she has 
restarted ___.  

According to ___ and her son since her discharge she has had 
worsening confusion, forgetfulness and has been repeating 
herself in conversations. They have also noted intermittent 
slurred speech and word finding difficulties. ___ 
referred ___ in this evening for 2 days of intermittent 
slurring of speech. Per family and referring documentation, word 
slurring occurred for several minutes on ___ and then again 
___ morning. By the evening, referring physician noted 
concern for word finding that started around 10pm (total 
30mins). She was otherwise fatigued but without other 
complaints.  
 
In the ED, initial vitals were:  
98.2 100 97/63 16 95% RA  
- Labs were notable for: Normal CBC with macrocytosis (MCV 100), 
hyponatremia Na 125, Cr 0.7, Mg 1.8, phos 5.1, normal LFTs, 
lipase 86, MB 5, trop 0.04, lactate 1.6, UA with few bacteria <1 
WBC neg leuks neg nitrates.  

Imaging  
CT Head:  
1. Interval evolution in appearance of a small left thalamic 
hemorrhage. No new hemorrhage or territorial infarct.  
2. Partial visualization of right facial fractures with re- 
demonstration of right superior and lateral orbital wall 
fractures.  

CXR: No acute cardiopulmonary abnormality. Right clavicular and 
multiple rib fractures unchanged.  

ECG w/ deep t waves in V2  
- ___ was given: 1L NS  
- Consults: neurology evaluated ___ and felt presentation 
most likely toxic metabolic and recommended infectious workup 
and admission to medicine for treatment of electrolyte 
abnormalities. They also mentioned given history of left sided 
IPH in hippocampus and thalamus ___ at increased risk for 
seizure which could cause confusion and recommended cvEEG.  
 
Vitals on transfer:  89 ___ 96% RA  
 
On the floor, ___ is tired and complaining of right shoulder 
pain. She has not had any loss of consciousness or convulsions. 
She complains of intermittent headache but no vision changes, 
nausea, vomiting. She has not had fevers or chills. No chest 
pain, palpitations, shortness of breath, cough, wheeze. No 
dysuria.  

 
Past Medical History:
Lumbar Radiculopathy, NIDDM2, GERD, Polymyalgia rheumatica 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 97.4 124/66 87 18 98% pm RA  
General: Alert, oriented to person, place, not year, very 
pleasant, no acute distress  
HEENT: R conjunctival hemorrhage, bilateral eye ecchymosis, dry 
mucous membranes, oropharynx clear, PERRL, EOMI  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley, no CVA tenderness  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.  

DISCHARGE PHYSICAL EXAM
=======================
VS - 97.___.7  146/60  74  18  96%/RA
lying: 146/60    74
sitting: 119/60  82
standing: 94/59  102
General: frail appearing, NAD  
HEENT: MMM, multiple ecchymoses on head & neck in different 
stages of healing, no scleral icterus
Neck: no JVD, no LAD  
CV: rrr, S1/S2 heard, no m/r/g  
Lungs: Bibasilar atelectasis, breathing comfortably  
Abdomen: soft, nontender, nondistended, normoactive bowel 
sounds, wearing abdominal binder  
GU: no foley
Ext: warm and well perfused, no edema  
Neuro: alert & oriented, no focal neurological deficits, GCS15
 
Pertinent Results:
ADMISSION LABS
==============
___ 10:20PM BLOOD WBC-9.9 RBC-3.53* Hgb-12.2 Hct-35.4 
MCV-100* MCH-34.6* MCHC-34.5 RDW-12.7 RDWSD-46.2 Plt ___
___ 10:20PM BLOOD Neuts-64.3 ___ Monos-9.4 Eos-0.7* 
Baso-0.4 Im ___ AbsNeut-6.37* AbsLymp-2.43 AbsMono-0.93* 
AbsEos-0.07 AbsBaso-0.04
___ 10:20PM BLOOD ___ PTT-28.0 ___
___ 10:20PM BLOOD Glucose-135* UreaN-29* Creat-0.7 Na-125* 
K-4.1 Cl-91* HCO3-19* AnGap-19
___ 10:20PM BLOOD CK-MB-5
___ 10:20PM BLOOD cTropnT-0.04*
___ 10:20PM BLOOD Albumin-3.5 Phos-5.1*# Mg-1.8
___ 02:16AM BLOOD Lactate-1.6

IMAGING/STUDIES
===============
___ CT Head
IMPRESSION: 1. Interval evolution in appearance of a small left 
thalamic hemorrhage.  No new hemorrhage or territorial infarct. 
2. Partial visualization of right facial fractures with re- 
demonstration of right superior and lateral orbital wall 
fractures. 

___ CXR
FINDINGS:  Heart size is top-normal with re- demonstration of 
unfolding of the thoracic aorta.  Hilar contours are 
unremarkable.  Lungs are grossly clear.  Pleural service are 
clear without effusion or pneumothorax.  Right clavicular and 
multiple rib fractures are unchanged. 
  
IMPRESSION: No acute cardiopulmonary abnormality.  Right 
clavicular and multiple rib fractures unchanged. 

___ EEG
IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study because of focal slowing in the left temporal region 
consistent with underlying cerebral dysfunction. There is 
generalized background slowing in the theta range, consistent 
with a mild encephalopathy. There are no epileptiform discharges 
or electrographic seizures. 

___ TTE
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. There is 
mild regional left ventricular systolic dysfunction with 
hypokinesis of the distal LV/apex. No masses or thrombi are seen 
in the left ventricle. There is no ventricular septal defect. 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. Mild to moderate (___) 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Mild (1+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion

___ X-ray clavicle
IMPRESSION:  
Again seen is the overlapping displaced fracture of the right 
midclavicle.  No significant callus formation. Superior and 
anterior subluxation of the humeral head relative to the 
glenoid. Mildly displaced fracture of the inferior aspect of the 
scapula. 

___ Left Wrist X-Ray
Overlying cast material limits evaluation of fine detail.  Again 
seen is the intra-articular distal radius fracture, without 
significant change in 
alignment.  No new fractures.  Severe degenerative changes of 
the thumb 
carpometacarpal, MCP and IP joints are again seen.  Moderate to 
severe 
degenerative changes of the triscaphe joint. 

MICROBIOLOGY
============
___ Urine Culture: pansensitive E.coli (>100,000 CFU)

DISCHARGE LABS
==============
___ 05:25AM BLOOD WBC-5.5 RBC-3.00* Hgb-10.2* Hct-32.6* 
MCV-109* MCH-34.0* MCHC-31.3* RDW-13.8 RDWSD-54.8* Plt ___
___ 05:35AM BLOOD Glucose-100 UreaN-11 Creat-0.4 Na-139 
K-3.6 Cl-105 HCO3-25 AnGap-13
___ 05:35AM BLOOD Calcium-8.7 Phos-3.0 Mg-1.___ year-old woman with history of HTN, HLD, PMR who was recently 
hospitalized with traumatic fall with multiple fractures and 
SAH/IPH who now presents with confusion, intermittent slurred 
speech, and memory deficits found to have hyponatremia.

# SIADH with hyponatremia: ___ presented with dry mucous 
membranes and Na 125 on  suggestive of hypovolemic hyponatremia 
and initially improved with IVF. However, her sodium began to 
drop and urine electrolytes were consistent with SIADH. She was 
transferred to MICU ___ due to confusion and Na level of 117. 
She received hypertonic saline and her sodium began to 
normalize. Her home HCTZ and citalopram were held. She returned 
to the floor where fluid restriction and salt tabs allowed her 
sodium to recover. At discharge, Na was within normal range, 
___ was alert and oriented with baseline mental status.

# Toxic metabolic encephalopthy: Secondary to SIADH/hyponatremia 
as above. Head CT with evidence of new small thalamic hemorrhage 
which increases risk for seizure. Neurology consulted and 
recommended EEG which showed focal slowing in the left temporal 
region consistent with underlying cerebral dysfunction, 
generalized background slowing in the theta range, consistent 
with mild encephalopathy. No epileptiform discharges or 
electrographic seizures. She will follow up with neurology as an 
outpatient.
 
# Orthostatic hypotension: ___ continued to have dizziness 
and hypotension upon standing up. ___ had no history of 
orthostasis or dysautonomia. Likely this was secondary to 
deconditioning. Initial treatment with with boluses of IV NS 
(serum sodium remained stable) did not improve her condition. 
She was encouraged to spend her days upright in chair. She was 
started on midodrine TID (___) and Florinef 0.2mg with some 
improvement in supine to sitting symptoms. Cortisol levels were 
not abnormal in this ___ with chronic steroid use. Neurology 
was consulted for autonomic dysfunction and she will follow up 
with them. She continued to have intermittent hypotension on 
standing despite medications, compression stockings, and 
physical therapy. 

# Atrial flutter/fibrillation: asymptomatic from a cardiac 
standpoint but noted flutter waves on telemetry. She 
intermittently went into atrial fibrillation during the early 
part of her hospitalization. She subsequently was rate 
controlled with metoprolol. Given ICH, anticoagulation was 
deferred despite CHADS-2 3 (HTN, age, DM). TTE showed apical 
hypokinesis, EF~45%, w/ mild AR and MR. ___ AC with 
___ and family and decided to hold off given high risk for 
ICH. ___ was discharged on Metoprolol XL with good rate 
control.

# NSTEMI: no chest pain or angina equivalents. Troponin 0.04 on 
admission with deep TW on admission EKG. Repeat EKG in AM with 
TWI in I, aVL and V2-V6. Continued to be asymptomatic. Trops 
downtrended to <0.01. TTE showed apical hypokinesis, EF~45%, w/ 
mild AR and MR. ___ with suspected stress induced 
(Takotsubo) myopathy. Plan for repeat TTE as outpatient in 2 
months and cardiology follow up. 

# E.coli Catheter-associated UTI: ___ developed E. Coli UTI 
from indwelling Foley catheter. Foley catheter was removed. She 
completed 5 day course of Bactrim with resolution of dysuria.

# S/P fall with multiple fractures: Orthopedics deemed fractures 
non-operative. Pain control with acetaminophen and low dose prn 
oxycodone. Follow up scheduled. 

CHRONIC MEDICAL ISSUES:  
=======================
#HLD: continued atorvastatin
#Depression: held Citalopram during admission for hyponatremia, 
restarted at discharge
#GERD: continued home omeprazole
#PMR: continued home prednisone 5 mg daily
#HTN: Stopped atenolol, HCTZ, and lisinopril. Currently on 
metoprolol XL 50mg daily
#DM2: held metformin and put on Humalog ss for additional meal 
time coverage for BS >200  
# Supplements: continued thiamine  
# Bone Health: Given chronic steroids and fall with fractures 
started on vitamin D with calcium supplementation, continued 
home bisphosphonates  

TRANSITIONAL ISSUES
===================
- Started ___ Florinef daily and midodrine TID (___) for 
orthstatic hypotension. Adjust as necessary with blood pressure 
monitoring. 
- Atenolol, lisinopril, and HCTZ held in setting of orthostatic 
hypotension. Currently on metoprolol XL 50mg daily for rate 
control.
- Citalopram held during hospitalization; given resolution of 
sodium levels suggest restarting with weekly BMP monitoring 
- Follow up with ___ clinic scheduled
- restarted ASA 81mg on ___ (per neurosurgery)
- Echo with EF 45%, apical hypokinesis. Repeat TTE in 2 months 
for NSTEMI (Takosubo's). Follow up with cardiology. 
- orthopedics follow up outpatient scheduled
- weekly BMP in rehab
- No neurosurgery follow up indicated
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Citalopram 20 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. PredniSONE 5 mg PO DAILY 
5. Thiamine 100 mg PO DAILY 
6. Acetaminophen 1000 mg PO Q6H:PRN Pain 
7. HydrALAzine 25 mg PO Q6H:PRN SBP > 140 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. Aspirin 81 mg PO ON HOLD 
10. Metoprolol Tartrate 12.5 mg PO Q6H 
11. Atenolol 37.5 mg PO DAILY 
12. Lisinopril 20 mg PO DAILY 
13. MetFORMIN (Glucophage) 500 mg PO DAILY 
14. Docusate Sodium 100 mg PO BID 
15. Senna 8.6 mg PO BID:PRN constipation 
16. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN Pain 
2. Alendronate Sodium 70 mg PO QFRI 
3. Atorvastatin 10 mg PO QPM 
4. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
5. Docusate Sodium 100 mg PO BID 
6. Omeprazole 20 mg PO DAILY 
7. PredniSONE 5 mg PO DAILY 
8. Senna 8.6 mg PO BID:PRN constipation 
9. Thiamine 100 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. Calcium Carbonate 1250 mg PO DAILY 
12. Citalopram 20 mg PO DAILY 
13. MetFORMIN (Glucophage) 500 mg PO DAILY 
14. Lidocaine 5% Patch 1 PTCH TD QAM to shoulder  
15. Fludrocortisone Acetate 0.2 mg PO DAILY 
16. Metoprolol Succinate XL 50 mg PO DAILY 
17. Midodrine 5 mg PO BID 
8AM, 2PM 
18. Midodrine 2.5 mg PO QPM 
19. Aspirin 81 mg PO DAILY 
20. TTE
Please obtain repeat TTE ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary:
- Toxic metabolic encephalopathy d/t hyponatremia/SIADH
- Orthostatic hypotension
- Type II NSTEMI apical HK (stress cardiomyopathy)
- New onset paroxysmal atrial fibrillation/flutter
- Catheter associated E. coli UTI

Secondary:
- Mechanical fall c/b left frontal and right temporal lobe SAH 
and left thalamic parenchymal hemorrhage; fractures of the right 
orbit and maxilla, right clavicle, scapula, ribs ___, and left 
distal radius (___)
- Right chronic subdural hematoma/hygroma
- Chronic ETOH use
- Macrocytic anemia
- Hypertension
- Polymalgia rheumatica
- Depression
- GERD
- Hyperlipidemia
- Diet controlled DM type II
- 60-70% LICA stenosis
- Osteoporosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for dizziness and confusion from your rehab 
center, ___, and found to have low sodium levels. The low 
levels were related to your recent fall. During the course of 
this hospitalization, you were transferred to the ICU for 
treatment of your low sodium levels. At the time of discharge, 
your sodium levels were back to normal range. You also had low 
blood pressures and dizziness when standing up, likely from not 
being upright for a period of time. You were treated with IV 
fluids, compression stockings, and medications to raise your 
blood pressure. You were cleared by physical therapy to return 
to rehab. You also developed a urinary tract infection from your 
foley catheter, which we treated with antibiotics. Lastly, you 
developed some abnormal heart beats (Atrial 
flutter/fibrillation), so we gave you metoprolol, a medication 
to control your heart rate. You should get a repeat 
echocardiogram (ultrasound of the heart) in two months.

Please continue to take all medications as prescribed. If you 
experience lightheadedness, confusion, dizziness, headaches, 
visual changes, fevers, chills or worsening pain, please seek 
out medical attention.

It was a pleasure caring for you at ___ and we wish you the 
best of health moving forward.

Sincerely,

Your ___ team
 
Followup Instructions:
___